US07595401B2
Step 3: tert-Butyl 4-(2-hydroxyethyl)-3,3-dimethylpiperidine-1-carboxylate
To a slurry of NaBH4 (204 mg, 5.40 mmol) and LiCl (229 mg, 5.40 mmol) in EtOH (8 mL) was added a solution of tert-butyl 4-{(ethoxycarbonyl)methyl}-3,3-dimethylpiperidine-1-carboxylate (538 mg, 1.80 mmol) in THF (10 mL) at 0° C. After stirring for 10 h at rt, the resulting mixture was quenched with water and the product portion was extracted with Et2O. The combined extracts were dried (Na2SO4), filtered, and concentrated in vacuo. The residue was purified by SiO2 chromatography (gradient: 40% EtOAc/hexane to 90% EtOAc/hexane) to provide the titled compound (275 mg, 59%).

reactant | NaBH4 | 5.40 mmol, 204 mg | [BH4-].[Na+]
reactant | LiCl | 5.40 mmol, 229 mg | [Li+].[Cl-]
reactant | tert-butyl 4-{(ethoxycarbonyl)methyl}-3,3-dimethylpiperidine-1-carboxylate | 1.80 mmol, 538 mg | C(C)OC(=O)CC1C(CN(CC1)C(=O)OC(C)(C)C)(C)C | C16H29NO4
solvent | EtOH | 8 mL | CCO | C2H6O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | tert-Butyl 4-(2-hydroxyethyl)-3,3-dimethylpiperidine-1-carboxylate | 275 mg, 59% | OCCC1C(CN(CC1)C(=O)OC(C)(C)C)(C)C | C14H27NO3
